datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])[H:8])[H:7])([H:5])[H:6].[C:12]([c:13]1[c:14]([H:22])[c:15]([H:23])[c:16]([H:24])[c:17]([H:25])[c:18]1[H:26])([H:19])([H:20])[H:21]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])([H:8])[H:19])[H:7])([H:5])[H:6].[C:12]([c:13]1[c:14]([H:22])[c:15]([H:23])[c:16]([H:24])[c:17]([H:25])[c:18]1[H:26])([H:20])[H:21],90.3744
[C:0]([H:1])([H:2])[H:3].[H:4]>>[C:0]([H:2])[H:3].[H:1][H:4],63.1784
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[H:7])([H:5])[H:6].[H:13]>>[C:0](=[C:1]([C:2]([C:3]([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[H:13])[H:7])([H:5])[H:6],13.1796
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([H:35])([H:36])[H:37])([H:33])[H:34])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:12])([H:13])[H:14].[O:38]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([H:35])([H:36])[H:37])([H:33])[H:34])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])[H:16])([H:12])([H:13])[H:14].[H:15][O:38],7.397312
[H:12].[O:0]=[C:1]1[C:2]([H:8])=[C:3]([H:9])[C:4]([H:10])=[C:5]([H:11])[C:6]1=[O:7]>>[O:0]=[C:1]1[C:2]([H:8])([H:12])[C:3]([H:9])[C:4]([H:10])=[C:5]([H:11])[C:6]1=[O:7],5.183976
[C:0](#[C:1][C:2]([C:3]#[C:4][H:11])=[C:5]([C:6]#[C:7][H:12])[C:8](=[C:9]([H:14])[H:15])[H:13])[H:10].[H:16]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:11])[C:5]([C:6]#[C:7][H:12])([C:8](=[C:9]([H:14])[H:15])[H:13])[H:16])[H:10],11.0039
[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:15])[H:11].[C:21](#[C:22][C:23]([C:24]([H:27])([H:28])[H:29])[H:26])[H:25]>>[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:15])[C:23]([C:22]#[C:21][H:25])([C:24]([H:27])([H:28])[H:29])[H:26])[H:11],41.045
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9](=[C:10]([c:11]1[c:12]([H:20])[c:13]([H:21])[c:14]([H:22])[c:15]([H:23])[c:16]1[H:24])[H:19])([H:17])[H:18]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[C:9]([C:10]([c:11]1[c:12]([H:20])[c:13]([H:21])[c:14]([H:22])[c:15]([H:23])[c:16]1[H:24])[H:19])([H:17])[H:18])[H:4],31.5055
[C:0]([C:1]([C:2]([C:3]([S:4][C:5]([C:6]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:0]([C:1]([C:2]([C:3]([S:4][C:5]([C:6]([H:17])([H:18])[H:19])[H:16])([H:13])[H:14])([H:11])[H:12])([H:10])[H:15])([H:7])([H:8])[H:9],24.7274
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9]1([H:18])([H:19])[C:10]([H:20])([H:21])[C:11]([H:22])([H:23])[C:12]2([H:24])[C:13]([H:25])([H:26])[C:14]([H:27])([H:28])[C:15]([H:29])([H:30])[C:16]2([H:31])[C:17]1([H:32])[H:33]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[H:25])[H:4].[C:9]1([H:18])([H:19])[C:10]([H:20])([H:21])[C:11]([H:22])([H:23])[C:12]2([H:24])[C:13]([H:26])[C:14]([H:27])([H:28])[C:15]([H:29])([H:30])[C:16]2([H:31])[C:17]1([H:32])[H:33],60.668
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:9])([H:10])[H:11])[C:5]#[C:6][H:12])[H:8])[H:7].[C:13](#[C:14][C:15]([C:16]([H:19])([H:20])[H:21])[C:17]([H:22])([H:23])[H:24])[H:18]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:9])([H:10])[H:11])([C:5]#[C:6][H:12])[C:15]([C:14]#[C:13][H:18])([C:16]([H:19])([H:20])[H:21])[C:17]([H:22])([H:23])[H:24])[H:8])[H:7],30.2085
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:9])([H:10])[H:11])[C:5](=[C:6]([H:13])[H:14])[H:12])[H:8])[H:7].[C:15]([H:16])([H:17])[H:18]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:9])([H:10])[H:11])[C:5](=[C:6]([H:13])[H:14])[H:12])([H:8])[C:15]([H:16])([H:17])[H:18])[H:7],12.4265
[C:0]([H:1])([H:2])[H:3].[c:4]1([H:10])[c:5]([H:11])[c:6]([H:12])[c:7]([H:13])[c:8]([H:14])[c:9]1[H:15]>>[C:0]([H:1])([H:2])([H:3])[H:10].[c:4]1[c:5]([H:11])[c:6]([H:12])[c:7]([H:13])[c:8]([H:14])[c:9]1[H:15],102.006
[C:0](#[C:1][C:2]([C:3]1([H:13])[C:4]([H:14])=[C:5]([H:15])[C:6]([H:16])=[C:7]([H:17])[C:8]1=[C:9]([H:18])[H:19])([H:11])[H:12])[H:10]>>[C:0](=[C:1]=[C:2]([H:11])[H:12])([C:9]([c:8]1[c:3]([H:13])[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]1[H:17])([H:18])[H:19])[H:10],75.588144
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9]([C:10](=[C:11]([C:12]([H:23])([H:24])[H:25])[c:13]1[c:14]([H:26])[c:15]([H:27])[c:16]([H:28])[c:17]([H:29])[c:18]1[H:30])[H:22])([H:19])([H:20])[H:21]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[C:11]([C:10]([C:9]([H:19])([H:20])[H:21])[H:22])([C:12]([H:23])([H:24])[H:25])[c:13]1[c:14]([H:26])[c:15]([H:27])[c:16]([H:28])[c:17]([H:29])[c:18]1[H:30])[H:4],53.0531
